US08404679B2
c) rac-[(3R,4S)-3-(3,4-Dichloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone (XI-3)
To a solution of rac-[(3S,4R)-4-(3,4-dichloro-phenyl)-1-(4-methanesulfonyl-piperazine-1-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester (130 mg, 0.24 mmol) in CH2Cl2 (5 ml) was added TFA (1 ml) at RT. Stirring was continued over night. The reaction mixture was then concentrated under vacuo, the crude dissolved in CH2Cl2, washed with aq.NaHCO3 and the organic phase was dried over Na2SO4. Purification by flash chromatography (SiO2, CH2Cl2/MeOH 95:5) yielded 100 mg (92%) of the title compound as light yellow oil. ES-MS m/e: 435.37 (M+H+).

reactant | rac-[(3S,4R)-4-(3,4-dichloro-phenyl)-1-(4-methanesulfonyl-piperazine-1-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester | 0.24 mmol, 130 mg | C(C)(C)(C)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)N1CCN(CC1)S(=O)(=O)C)=O | C22H32Cl2N4O5S
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | rac-[(3R,4S)-3-(3,4-Dichloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone | 100 mg, 92% | ClC=1C=C(C=CC1Cl)[C@@H]1CN(C[C@H]1NC)C(=O)N1CCN(CC1)S(=O)(=O)C | C17H24Cl2N4O3S
